* C:\Users\chase\OneDrive\Documents\GitHub\eaglePosts\shiftRegBoard\LAB2bModel.asc
C1 N006 N005 100n
C2 N004 N003 470p
C3 0 N007 100n
R1 Vdd N006 56k
R2 N006 0 15k
R3 Vdd N003 10k
R4 N007 N008 4.7k
Q1 N003 N006 N007 0 2N2222
R5 N004 0 10k
V1 N005 0 SINE(0 .01 250k)
V2 N008 0 SINE(0 .5 2k)
V3 Vdd 0 10
D1 N002 N001 D
R6 N001 0 20k
C4 N001 0 800p
XU1 N004 N001 Vdd -Vdd N002 LM741/NS
XU2 N001 Vout Vdd -Vdd Vout LM741/NS
V4 0 -Vdd 10
.model D D
.lib C:\Users\chase\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\chase\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 .005 0 .001
.include C:\Users\chase\OneDrive\Documents\GitHub\eaglePosts\shiftRegBoard\LM741.MOD
.backanno
.end
